US20010014691A1
1-(5-Bromo-3-pyridylthio)propan-2-ol
A hot solution of the mixture of (2-(5-bromo(3-pyridylthio))-isopropyl)methylamine and (2-(5-bromo(3-pyridylthio))propyl)methylamine (1.01 g, 3.867 mmol) in ethanol (15 mL) was treated in one portion with galactaric acid (0.406 g, 1.937 mmol). Water (3 mL) was added drop-wise, while warming the solution to reflux. To remove some white, insoluble solids, the warm solution was filtered through a glass wool plug, washing the filter plug with a warm solution of ethanol-water (4:1, v/v) (5 mL). The filtrate was diluted with ethanol (22.5 mL). The mixture was allowed to cool to ambient temperature and was allowed to stand for 16 h. The resulting solids were filtered, washed with ethanol (2×5 mL), and vacuum dried at 45° C. to give 0.512 g (36.1%) of light-beige, crystalline flakes, mp 146.5-149.5° C. Analysis indicated a 57:41 mixture of (2-(5-bromo(3-pyridylthio))-isopropyl)methylamine hemigal actarate and (2-(5-bromo(3-pyridylthio))-propyl)methylamine hemigalactarate. The compound exhibits a Ki of 5500 nM.

reactant | (2-(5-bromo(3-pyridylthio))propyl)methylamine | 3.867 mmol, 1.01 g | BrC=1C=C(C=NC1)SC(CNC)C | C9H13BrN2S
reactant | galactaric acid | 1.937 mmol, 0.406 g | O=C([C@H](O)[C@@H](O)[C@@H](O)[C@H](O)C(=O)O)O | C6H10O8
reactant | Water | 3 mL | O | H2O
reactant | (2-(5-bromo(3-pyridylthio))-propyl)methylamine hemigalactarate | O=C([C@H](O)[C@@H](O)[C@@H](O)[C@H](O)C(=O)O)O.BrC=1C=C(C=NC1)SC(CNC)C.BrC=1C=C(C=NC1)SC(CNC)C
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 1-(5-Bromo-3-pyridylthio)propan-2-ol | BrC=1C=C(C=NC1)SCC(C)O | C8H10BrNOS
